US05817877
General procedure B using 55.1 mg (0.229 mmol) of o-tolyltriflate and 34.0 μl (0.344 mmol) of n-butylamine gave 67% yield of N-butyl-2-methylaniline after silica gel chromatograph using 5% ethyl acetate in hexanes.

reactant | o-tolyltriflate | 0.229 mmol, 55.1 mg | C1(=C(C=CC=C1)OS(=O)(=O)C(F)(F)F)C | C8H7F3O3S
reactant | n-butylamine | 0.344 mmol, 34.0 μl | C(CCC)N | C4H11N
product | N-butyl-2-methylaniline | 67% yield | C(CCC)NC1=C(C=CC=C1)C | C11H17N
